US04329471
A mixture of 4.3 g (14.2 mmole) of 5-(bromomethyl)-1,3-dihydro-4-(4-fluorobenzoyl)-2H-imidazol-2-one, 3.0 g (14.2 mmole) of 4-(4-chlorophenyl)-4-hydroxypiperidine, 2.0 g (14.2 mmole) of potassium carbonate and 75 ml of ethanol is stirred under argon for 16 hours at 25° C. Water (100 ml) is added and the precipitate which forms is collected and washed with water. It is then suspended in 2-propanol and 1 equivalent of hydrogen chloride in 2-propanol is added. The resulting solid is separated and recrystallized twice from a mixture of 2-propanol and water to give 4-[[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]methyl]-5-(4-fluorobenzoyl)-1,3-dihydro-2H-imidazol-2-one hydrochloride melting at about 235°-236° C. with decomposition.

reactant | 5-(bromomethyl)-1,3-dihydro-4-(4-fluorobenzoyl)-2H-imidazol-2-one | 14.2 mmole, 4.3 g | BrCC1=C(NC(N1)=O)C(C1=CC=C(C=C1)F)=O | C11H8BrFN2O2
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 14.2 mmole, 3.0 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 14.2 mmole, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Water | 100 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-[[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]methyl]-5-(4-fluorobenzoyl)-1,3-dihydro-2H-imidazol-2-one hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)CC=1NC(NC1C(C1=CC=C(C=C1)F)=O)=O)O | InChI=1S/C22H21ClFN3O3.ClH/c23-16-5-3-15(4-6-16)22(30)9-11-27(12-10-22)13-18-19(26-21(29)25-18)20(28)14-1-7-17(24)8-2-14;/h1-8,30H,9-13H2,(H2,25,26,29);1H
